US08008298B2
(4-Benzyloxy-1-methyl-cyclohexyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (4-benzyloxy-1-methyl-cyclohexyl)-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-methanone and 3,4,5-trimethoxybenzeneboronic acid following general procedures as described in these Examples. M+H=516.

reactant | (4-benzyloxy-1-methyl-cyclohexyl)-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-methanone | C(C1=CC=CC=C1)OC1CCC(CC1)(C)C(=O)C1=CNC2=NC=C(N=C21)Br | C21H22BrN3O2
reactant | 3,4,5-trimethoxybenzeneboronic acid | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
product | (4-Benzyloxy-1-methyl-cyclohexyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | C(C1=CC=CC=C1)OC1CCC(CC1)(C)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C30H33N3O5
